### PR TITLE
Adding StdppListFinSet.v

### PR DESCRIPTION
**Pull request by DafinaTrufas**

### CODE REVIEW

File: theories/VLSM/Lib/StdppListFinSet.v [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+Lemma set_add_intro1 :
+  forall (a b : A) (x : set), a ∈ x -> a ∈ set_add b x.
+Proof.
+  intros. unfold set_add. apply elem_of_union. right. apply H7.
+Qed.
+
+Lemma set_add_intro2 :
+  forall (a b : A) (x : set), a = b -> a ∈ set_add b x.
+Proof.
+  intros. unfold set_add. apply elem_of_union. left. apply elem_of_singleton, H7.
```
Comment (palmskog) [inline theories/VLSM/Lib/StdppListFinSet.v:29]: Please give explicit hypothesis names to `intros` when this is possible, e.g., `intros a b x Hab.`

... and use the `by` finisher for a tactic call that closes a goal, e.g., `by apply elem_singleton, Hab.`

File: theories/VLSM/Lib/StdppListFinSet.v [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+Proof.
+  intros. unfold set_remove in H7. apply elem_of_difference in H7. 
+  destruct H7 as [Hl Hnb]. apply Hl.
+Qed.
+
+Lemma set_remove_2 (a b : A) (l : set) :
+  NoDup (elements l) -> a ∈ set_remove b l -> a <> b.
+Proof.
+  intros. unfold set_remove in H8. apply elem_of_difference in H8. destruct H8 as [Hl Hnb].
+  unfold "≠". unfold "≠" in Hnb. intros. rewrite elem_of_singleton in Hnb. apply Hnb, H8.
```
Comment (palmskog) [inline theories/VLSM/Lib/StdppListFinSet.v:77]: Please avoid `unfold "≠"`.
```suggestion
  intro Hab; rewrite elem_of_singleton in Hnb.
  by apply Hnb, Hab.
```

File: theories/VLSM/Lib/StdppListFinSet.v [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+Qed.
+
+Lemma set_remove_3 (a b : A) (l : set) :
+  a ∈ l -> a <> b -> a ∈ set_remove b l.
+Proof.
+  intros. unfold set_remove. apply elem_of_difference. split.
+  - apply H7.
+  - unfold "≠" in H8. unfold "≠". intros. apply elem_of_singleton in H9. apply H8, H9.
```
Comment (palmskog) [inline theories/VLSM/Lib/StdppListFinSet.v:85]: Please avoid `unfold "≠"`.
```suggestion
  - intros Hab. apply elem_of_singleton in Hab. by apply H8, Hab.
```

**Review by palmskog — COMMENTED** [review]
This looks quite good in general, but please take another look at hypothesis names. Try to use descriptive names like `Hab`, `H_eq_ab`, and similar. Also use finisher `by`.

File: theories/VLSM/Lib/StdppListFinSet.v [hunk 4]
```diff
@@ -0,0 +1,164 @@
...
+Section other_defs.
+
+Context 
+  `{FinSet A C}
+  `{FinSet B D}
+  `{FinSet (A * B) CD}
+  .
+
+Definition set_prod (X : C) (Y : D) : CD :=
+   list_to_set (list_prod (elements X) (elements Y)).
```
Comment (palmskog) [inline theories/VLSM/Lib/StdppListFinSet.v:162]: Are we sure that there is no built-in notion of product set in Stdpp? I would be surprised if there weren't.

Comment (DafinaTrufas) [reply theories/VLSM/Lib/StdppListFinSet.v:163]: I am not sure, but I couldn't find it.

**Review by palmskog — APPROVED** [review]
Now looks good to me, this is useful as a comparison. There is a last change required, however @DafinaTrufas. Please add the file path to `_CoqProject`. It should look something like this:
```
theories/VLSM/Lib/FinSetExtras.v
theories/VLSM/Lib/StdppListFinSet.v
```
Otherwise, the file is not compiled by default, and not checked by CI.

**Review by wkolowski — APPROVED** [review]
Looks ok, I put my suggestions into a separate PR: https://github.com/runtimeverification/vlsm/pull/105/files

**Comment by DafinaTrufas** [comment]
I refactored my proofs according to Wojciech's suggestions. Also, I noticed there were still two lemmas using `Nodup` in their premises and I removed that hypothesis. These two lemmas are `set_remove_2` and `set_remove_iff`. Could you please take a look at them and confirm that I did the right thing?

**Review by wkolowski — APPROVED** [review]
Looks good.
